US07816397B2
2-[2-(4-Nitrophenoxy)ethoxy]phenylpropanoic acid
25 g (0.15 M) of 2-hydroxyphenylpropanoic acid and 16.9 g (0.12 M) of potassium hydroxide are added to a mixture of 150 ml of methanol and 20 ml of dimethylformamide in a 1000 ml reactor. After stirring for 10 minutes, 30 g (0.15 M) of 2-(4-nitrophenoxy)ethyl bromide are added and the reaction medium is then refluxed for 24 hours with stirring. The methanol is evaporated off and the residue is taken up in water. The aqueous phase obtained is first washed with ethyl acetate and then acidified with dilute aqueous hydrochloric acid and extracted with ethyl acetate.

reactant | 2-hydroxyphenylpropanoic acid | 0.15 M, 25 g | OC1=C(C=CC=C1)C(C(=O)O)C | C9H10O3
reactant | potassium hydroxide | 0.12 M, 16.9 g | [OH-].[K+]
reactant | methanol | 150 ml | CO | CH4O
reactant | 2-(4-nitrophenoxy)ethyl bromide | 0.15 M, 30 g | [N+](=O)([O-])C1=CC=C(OCCBr)C=C1 | C8H8BrNO3
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-[2-(4-Nitrophenoxy)ethoxy]phenylpropanoic acid | [N+](=O)([O-])C1=CC=C(OCCOC2=C(C=CC=C2)C(C(=O)O)C)C=C1 | C17H17NO6
